US04042697
2. 6-(2-Aminoethoxy)-2-methylisoquinolinium bromide
2-Methyl-6(2-Phthalimidoethoxy)isoquinolinium bromide (900 mg.) and hydrazine hydrate (0.3 g.) in ethanol (50 ml) were heated under reflux for 2 hr. The mixture was cooled and the precipitated hydrazide filtered off. Addition of ether to the filtrate gave a solid which was recrystallised from acetonitrile and had m.p. 173°-176°.

reactant | 2-Methyl-6(2-Phthalimidoethoxy)isoquinolinium bromide | 900 mg | [Br-].C[N+]1=CC2=CC=C(C=C2C=C1)OCCN1C(C=2C(C1=O)=CC=CC2)=O
reactant | hydrazine hydrate | 0.3 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(2-Aminoethoxy)-2-methylisoquinolinium bromide | [Br-].NCCOC=1C=C2C=C[N+](=CC2=CC1)C | InChI=1S/C12H15N2O.BrH/c1-14-6-4-10-8-12(15-7-5-13)3-2-11(10)9-14;/h2-4,6,8-9H,5,7,13H2,1H3;1H/q+1;/p-1
